US04017492
In the manner given in Example 14, 7-chloro-2-[[1-carboxy-3-(dimethylamino)propylidene]hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine can be treated with ethereal diazomethane to give 7-chloro-2-[[1-(methoxycarbonyl)-3-(dimethylamino)propylidene]hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-[[1-carboxy-3-(dimethylamino)propylidene]hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CCN(C)C)C(=O)O)C2=C(C=CC=C2)Cl)C1 | C21H21Cl2N5O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 7-chloro-2-[[1-(methoxycarbonyl)-3-(dimethylamino)propylidene]hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CCN(C)C)C(=O)OC)C2=C(C=CC=C2)Cl)C1 | C22H23Cl2N5O2
